US08629168B2
c) 2-Amino-6-bromo-phenol
5 g (22.9 mmol) 2-nitro-6-bromo-phenol (Fluka 67211) is hydrogenated in the presence of 0.1 g Ra—Ni (B113W EtOH, Degussa) in 100 ml of THF:MeOH=1:1. for 4 h. The reaction mixture is filtered (2 glass fiber filters used) and the filtrate is concentrated in vacuo. The residue is purified by chromatography (silicagel, hexane:EtOAc=2:1) to afford the title compound as a reddish oil which slowly solidifies.

reactant | 2-nitro-6-bromo-phenol | 22.9 mmol, 5 g | [N+](=O)([O-])C1=C(C(=CC=C1)Br)O | C6H4BrNO3
reactant | MeOH | CO | CH4O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | Ra—Ni | 0.1 g | [Ni] | Ni
product | 2-Amino-6-bromo-phenol | NC1=C(C(=CC=C1)Br)O | C6H6BrNO
